*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/5.60e-05[uF]/630[V]
* Murata P/N :GCM21A5C2J560FX01
* Property : C = 5.60e-05[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2J560FX01 Port1 Port2
C01 Port1 N01 5.60e-11
R01 Port1 N01 1.00e+11
L02 N01 N02 7.28e-15
R03 N02 N03 2.72e-02
C04 N03 N04 1.14e-08
R04 N03 N04 1.19e+00
L05 N04 N05 3.93e-11
R05 N04 N05 2.66e+00
L06 N05 N06 2.59e-10
R06 N05 N06 1.43e-01
C07 N06 N07 5.23e-10
L07 N06 N07 6.71e-12
R07 N06 N07 5.53e-01
C08 N07 N08 3.02e-11
L08 N07 N08 3.84e-11
R08 N07 N08 5.42e+00
C09 N08 Port2 8.47e-13
L09 N08 Port2 5.18e-10
R09 N08 Port2 3.96e+02
.ENDS GCM21A5C2J560FX01
