*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.20e-04[uF]/630[V]
* Murata P/N :GCM21A5C2J121GX01
* Property : C = 1.20e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2J121GX01 Port1 Port2
C01 Port1 N01 1.20e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 5.95e-14
R03 N02 N03 1.22e-01
C04 N03 N04 2.50e-04
R04 N03 N04 1.49e-01
C05 N04 N05 6.61e-10
L05 N04 N05 1.00e-11
R05 N04 N05 4.51e-01
C06 N05 N06 8.33e-11
L06 N05 N06 2.37e-11
R06 N05 N06 2.00e+00
C07 N06 Port2 6.34e-13
L07 N06 Port2 5.70e-10
R07 N06 Port2 2.66e+02
.ENDS GCM21A5C2J121GX01
