*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/U2J(-55to125[deg])/1.00e-03[uF]/250[V]
* Murata P/N :GCM21A7U2E102JX01
* Property : C = 1.00e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A7U2E102JX01 Port1 Port2
C01 Port1 N01 9.93e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 5.26e-11
R03 N02 N03 2.98e-02
L04 N03 N04 1.30e-10
R04 N03 N04 6.90e-01
C05 N04 N05 7.05e-08
L05 N04 N05 4.64e-11
R05 N04 N05 1.69e-02
C06 N05 N06 2.52e-08
L06 N05 N06 6.15e-12
R06 N05 N06 1.49e-01
C07 N06 N07 2.24e-09
L07 N06 N07 3.25e-11
R07 N06 N07 5.45e-01
C08 N07 Port2 7.56e-13
L08 N07 Port2 4.57e-10
R08 N07 Port2 4.90e+02
.ENDS GCM21A7U2E102JX01
