*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/U2J(-55to125[deg])/1.20e-04[uF]/250[V]
* Murata P/N :GCM21A7U2E121JX01
* Property : C = 1.20e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A7U2E121JX01 Port1 Port2
C01 Port1 N01 1.20e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 1.22e-11
R03 N02 N03 1.36e-01
L04 N03 N04 1.34e-10
R04 N03 N04 5.29e+00
C05 N04 N05 2.53e-09
L05 N04 N05 6.19e-12
R05 N04 N05 3.66e-01
C06 N05 N06 2.10e-10
L06 N05 N06 3.02e-11
R06 N05 N06 1.55e+00
C07 N06 Port2 8.23e-13
L07 N06 Port2 4.79e-10
R07 N06 Port2 8.25e+02
.ENDS GCM21A7U2E121JX01
