*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/U2J(-55to125[deg])/1.50e-04[uF]/250[V]
* Murata P/N :GCM21A7U2E151JX01
* Property : C = 1.50e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A7U2E151JX01 Port1 Port2
C01 Port1 N01 1.50e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 1.23e-11
R03 N02 N03 1.07e-01
L04 N03 N04 1.21e-10
R04 N03 N04 4.76e+00
C05 N04 N05 1.75e-09
L05 N04 N05 1.20e-11
R05 N04 N05 5.59e-01
C06 N05 N06 2.60e-10
L06 N05 N06 3.67e-11
R06 N05 N06 1.75e+00
C07 N06 Port2 8.80e-13
L07 N06 Port2 4.59e-10
R07 N06 Port2 4.44e+02
.ENDS GCM21A7U2E151JX01
